US09024093B2
N-Boc-indazole-5-boronic acid (S47)
To N-Boc-indazole-5-boronic acid pinacol ester (S46) (390 mg, 1.13 mmol, 1.00 equiv) in acetone/H2O (5.0 mL/5.0 mL) at 23° C. was added NH4OAc (436 mg, 5.65 mmol, 5.00 equiv) and NaIO4 (1.21 g, 5.65 mmol, 5.00 equiv). After stiffing for 48 hr at 23° C., the reaction mixture was concentrated in vacuo to remove acetone. To the residual solution was added EtOAc (5 mL) and the phases were separated. The aqueous phase was extracted with EtOAc (2×5 mL). The combined organic phases are washed with brine (10 mL) and dried (Na2SO4). The filtrate was concentrated in vacuo and the residue was triturated with Et2O to afford 200 mg of the title compound as a colorless solid (68% yield).

reactant | N-Boc-indazole-5-boronic acid pinacol ester | 1.13 mmol, 390 mg, 1.00 equiv | C(=O)(OC(C)(C)C)N1N=CC2=CC(=CC=C12)B1OC(C)(C)C(C)(C)O1 | C18H25BN2O4
solvent | acetone H2O | 5.0 mL | CC(=O)C.O
product | N-Boc-indazole-5-boronic acid | 200 mg, 68% yield | C(=O)(OC(C)(C)C)N1N=CC2=CC(=CC=C12)B(O)O | C12H15BN2O4
